US06908921B2
To a solution of (3R)-3-(azidomethyl)-3,4-dihydroquinoxalin-2(1H)-one (122 mg, 0.60 mmol) in pyridine (3 mL) was added 3,4-dichlorobenzenesulfonyl chloride (300 uL, 1.92 mmol). After stirring at room temperature overnight, the reaction mixture was concentrated under reduced pressure and purified using silica gel chromatography eluting with CH2Cl2-3% MeOH in CH2Cl2. The resulting product (137 mg, 0.33 mmol) was dissolved in EtOH (3 mL) and Pd/C (93 mg, 0.087 mmol) was added. A hydrogen balloon was placed over the reaction mixture for 5.5 hours before it was filtered through celite and concentrated to give (3R)-3-(aminomethyl)-4-[(3,4-dichlorophenyl)sulfonyl]-3,4-dihydroquinoxalin-2(1H)-one, which was used without further purification. LCMS (ES) 385.9.

reactant | (3R)-3-(azidomethyl)-3,4-dihydroquinoxalin-2(1H)-one | 0.60 mmol, 122 mg | N(=[N+]=[N-])C[C@@H]1C(NC2=CC=CC=C2N1)=O | C9H9N5O
reactant | 3,4-dichlorobenzenesulfonyl chloride | 1.92 mmol, 300 uL | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | hydrogen | [H][H] | H2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOH | 3 mL | CCO | C2H6O
catalyst | Pd/C | 0.087 mmol, 93 mg | [Pd] | Pd
product | (3R)-3-(aminomethyl)-4-[(3,4-dichlorophenyl)sulfonyl]-3,4-dihydroquinoxalin-2(1H)-one | NC[C@@H]1C(NC2=CC=CC=C2N1S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C15H13Cl2N3O3S
